Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan / Levofloxacin
 
Attending: ___
 
Chief Complaint:
Twitching
 
Major Surgical or Invasive Procedure:
Upper Endoscopy

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ patient is a ___ ESRD s/p cadaver allograft ___ ___ years, 
6months ago) on tacrolimus and prednisone, type one diabetes 
mellitus c/b retinopathy, neuropathy, CAD s/p CABGx4, PVD s/p 
right popliteal stent, recurrent C. diff, R foot MRSA 
osteomyelitis, and dCHF, h/o mult DVTs on coumadin transferred 
from OSH after he presented there with facial twitching. Patient 
reports being in normal state of health until yesterday when 
developed facial and bilateral upper extremity twitching. He 
endorses jaw and shoulder pain due to muscle contractions.  He 
denies vision changes, weakness, sensory changes. 
.
Per the wife, he has been experiencing visual hallucinations for 
the past six weeks that are getting progressively worse. In 
___ he developed intermittent nausea and vomiting. He was 
admitted on ___ for evaluation, with infectious (stool 
bacterial culture, C.diff, CMV, ova/parasites) negative, celiac 
disease (anti-TTG), plan for possible outpatient colonoscopy. He 
has been getting anti-emetics, zofran TID w/ meals, for his 
symptoms.  SNF notes that he has had poor PO intake recently, 
completing ___ of meals, and has had 40 pound weight loss 
over past six months.   There was concern for depression so he 
was started on mirtazepine several weeks ago.  He was started on 
levofloxacin on ___ for concern for infection in left lower 
extremity non-healing ulcer after malodor was noted.  Of note, 
Coumadin has been held since ___ due to supratherapeutic INR. 
 
.
At OSH, head CT was negative except for remote lacunar infarct 
noted on prior CT scan. He was administered benadryl for 
possible dystonic reaction as well as dilaudid 1mg w/plan to 
admit but transferred here because renal care here. Creatinine 
2.2, K+ 5.5, ? given kayexcelate.
.  
In the ED, triage vitals were 98.7 88 121/104 16 98% RA. On exam 
iducible clonus, facial dystonia/tic. Mental status exam able to 
follow directions/alert/oriented X3, but voicing paranoid 
thoughts of people trying to kill him and being unsafe. Labs 
notable for HCT 38 (baseline ~30), INR 9.0, creatinine 2.3 
(baseline 1.2), lactate 2.0. UA w/ few bacteria, 6 WBC, FeNa 
0.2. Foot X-ray w/ no evidence of osteomyelitis. CXR with no 
evidence of pneumonia. Access right fa/pta, #18 right a/c, foley 
placed in ED. Patient was given Benztropine 1mg tablet. Most 
recent vitals 98.2, 95, 14, 100%, 104/76. 
.  
.  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria. 

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
FAMILY HISTORY:
DM type II in father and paternal grandfather. Mother had "heart 

disease".    

 
Physical Exam:
ADMISSION
GENERAL: Intermittent rhythmic bilateral face/shoulder 
twitching, NAD 
HEENT: Dry mucous membranes, Sclera icteric  
CARDIAC: S1, S2 regular rhytjm, with no excess sounds 
appreciated 
LUNGS: CTA b/l with no wheezing, rales, or rhonchi.
ABDOMEN: soft, non-tender, non-distended
GU: foley catheter in place draining dark urine 
EXTREMITIES:  right calcaneus with 4x4cm nonhealing ulcer with 
serous drainage, left calcaneus with 5x5cm non-healing ulcer 
with serosanguinous drainage, no malodor 
NEURO: oriented to self, location, year/month/day, face 
symmetric, tongue midline, EOMI, visual fields full, MAE 
antigravity, contractions neck and facial muscles
.
DISCHARGE
GEN: NAD
CARDIAC: S1, S2 regular rhytjm, with no excess sounds 
appreciated 
LUNGS: CTA b/l with no wheezing, rales, or rhonchi.
ABDOMEN: soft, non-tender, non-distended, +BS
GU: foley catheter in place draining yellow urine 
EXTREMITIES:  right calcaneus with 4x4cm nonhealing ulcer with 
serous drainage, left calcaneus with 5x5cm non-healing ulcer 
with serosanguinous drainage, no malodor, yellow crusting ulcers 
along shins b/l 
NEURO: AOx3, denies any visual hallucinations, CNs intact
 
Pertinent Results:
ADMISSION LABS
___ 05:00AM BLOOD WBC-5.4 RBC-4.48* Hgb-11.9* Hct-38.1* 
MCV-85 MCH-26.6* MCHC-31.2 RDW-15.3 Plt ___
___ 06:20AM BLOOD WBC-4.0 RBC-3.91* Hgb-10.6* Hct-33.2* 
MCV-85 MCH-27.1 MCHC-31.9 RDW-15.8* Plt ___
___ 05:00AM BLOOD ESR-34*
___ 05:00AM BLOOD Glucose-138* UreaN-46* Creat-2.3*# Na-137 
K-4.6 Cl-101 HCO3-26 AnGap-15
___ 06:20AM BLOOD Calcium-8.1* Phos-1.9* Mg-2.0
___ 05:15AM BLOOD VitB12-940*
___ 05:00AM BLOOD TSH-11*
___ 05:00AM BLOOD T4-6.0
___ 05:00AM BLOOD CRP-136.7*
___ 02:30PM BLOOD tacroFK-7.9
___ 06:20AM BLOOD tacroFK-8.3
.
DISCHARGE LABS
___ 06:00AM BLOOD WBC-4.3 RBC-3.99* Hgb-10.7* Hct-34.5* 
MCV-86 MCH-26.8* MCHC-31.0 RDW-15.8* Plt ___
___ 06:00AM BLOOD ___ PTT-38.0* ___
___ 06:00AM BLOOD Glucose-260* UreaN-23* Creat-1.2 Na-140 
K-3.8 Cl-111* HCO3-23 AnGap-10
___ 06:00AM BLOOD Calcium-8.1* Phos-2.6* Mg-1.8
___ 06:00AM BLOOD tacroFK-10.6
.
MICRO
C Diff ___: positive
RPR: negative
urine culture: negative, second is pending 
blood culture: no growth to date
.
IMAGING
CXR ___: No acute cardiothoracic process including no evidence 
of 
pneumonia. 
.
Foot XR ___: RIGHT FOOT: Atherosclerotic vascular 
calcifications. Mild soft tissue swelling. Osteopenia. No 
definite fractures. Unchanged changes from Charcot arthropathy 
with a rockerbottom foot deformity. Plantar spur. Prior second 
toe amputation at the proximal PIP joint.  The cortex at the 
amputation site is slightly indistinct on today's study, but not 
significantly different compared to the prior study. There is no 
definite evidence of cortical destruction or periostitis.   
  
LEFT FOOT: Atherosclerotic vascular calcifications. Mild soft 
tissue swelling. Unchanged linear foreign body in the plantar 
soft tissues. Osteopenia. No definite fractures. Plantar spur. 
Prior fifth toe amputation. The margins are unchanged compared 
to the prior study. There is no definite evidence of cortical 
destruction or periostitis.   
  
IMPRESSION:  No interval change. 
.
RENAL U/S ___: 1. Technically limited examination due to patient 
compliance. 
2. Patent main renal artery and vein.  Limited examination of 
intrarenal 
waveforms shows interval increase in elevated resistive indices. 
 Antegrade diastolic flow could not be identified in the upper 
pole arcuate arteries; however, this may be technical in nature. 
 
3. No hydronephrosis. 
.
Gastric Emptying Study ___:   
Residual tracer activity in the stomach is as follows: 
At 45 mins 91% of the ingested activity remains in the stomach 
At 2 hours 91% of the ingested activity remains in the stomach 
At 3 hours 91% of the ingested activity remains in the stomach 
At 4 hours 88% of the ingested activity remains in the stomach 
The majority of the residual tracer activity remains in the 
gastric fundus throughout the study. 
  
IMPRESSION:  
Delayed gastric emptying.  Minimal emptying during 4 hours of 
imaging. 
.
EGD ___
Ringed esophagus with sloughing of mucosa in the whole Esophagus 
(biopsy). These findings can be seen in eosinophillic 
esophagitis or reflux esophagitis.  
Irregular Z line noted at GE Junction (biopsy) 
Mild-moderate gastritis (biopsy) 
Mild duodenitis 
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
ASSESSMENT
The patient is a ___ ESRD s/p cadaver allograft ___ ___ years, 
6months ago) on tacrolimus and prednisone, type one diabetes, 
CAD s/p CABGx4, PVD s/p right popliteal stent, chronic lower 
extremity non-healing ulcers, h/o mult DVTs on coumadin admitted 
with cervical/facial dystonia found to have acute renal failure 
and supratherapeutic INR
.
#DYSTONIC REACTION: Intermittent spasmodic involuntary 
contraction of neck, face, trunk was most consistent with 
cervical/facial dystonic reaction. The most likely cause is 
medication induced witih possible meds including zofran (<1%) or 
levofloxacin (case reports). These medications were held and he 
was given cogentin in the ED. The dystonic movements resolved 
over ___.  It is not clear exactly which of these 
medications was the cause - would avoid levofloxacin in the 
future if able. This was added to ADR list. 
.
#SUPRATHERAPEUTIC INR: Patient on chronic warfarin due to 
recurrent DVT found to have INR of 9. This is likely due to a 
combination of levoquin and possible nutritional deficiency. He 
was given vitamin K and coumadin was held with return of INR to 
goal. He was restarted on coumadin on ___. His INR was 
supratherapeutic at discharge. His dose should be held on ___ 
and then on ___ he should be started on 0.5mg daily.  Please 
perform twice weekly INR checks to make sure he stays within 
goal of ___. 
.
# ACUTE RENAL FAILURE: Patient with baseline of 1.2 admitted 
with creatinine of 2.3. He appeared dehydrated on exam and labs 
w/ FeNa 0.2 c/w prerenal etiology in setting of limited PO 
intake ___ chronic nausea. Renal ultrasound without evidence of 
obstruction and patent main vasculature. Lasix was held and he 
was given intravenous fluids with normalization of his renal 
function (at baseline of 1.2 on discharge). Lasix, at home dose, 
was restarted at discharge. Would continue to monitor fluid 
status and at least weekly chemistry. If creatinine trends up 
would consider reducing dose of lasix to 20mg daily or holding 
for several days and rechecking creatinine. 
.
#NAUSEA: He reports nausea, weight loss, and intermittent loose 
stools since ___. His abdominal exam was benign. An 
evaluation during previous admission - infectious studies (stool 
bacteria, O/P, CMV), Celiac disease (tTG IgA), CT abdomen - was 
negative. During this admission, stool study for C. difficile 
returned positive. This is his second recurrence so he was 
started on oral vancomycin.  He also had a gastric emptying 
study that showed 88 % residual tracer activity at the end of 4 
hours which is consistent with gastroparesis. The 
gastrointestinology service was consulted. The etiology of the 
nausea is likely multifactorial. First, suboptimally controlled 
diabetes (A1C 9.2 in ___ is likely contributing as he has 
evidence of other complications including retinopathy, 
peripheral neuropathy. We recommend tight control of diabetes, 
although this has been difficult due to labile blood sugars. 
Second, narcotics (oxycodone) can delay gastric emptying. We 
recommneded limiting his narcotics if possible. We also 
discussed the importance of small frequent meals with a low fat, 
low fiber diet. Pharmacological management was considered 
although he has an allergy to reglan (confusion) and 
erythromycin was not felt to be a good option in setting of 
ongoing C.difficile infection.  GI also thought that 
Botox-injection in pylorus could be considered in the future if 
these strategies do not work.  He underwent an upper endoscopy, 
that revealed findings that could be consistent with 
eosinophilic esophagitis or reflux esophagitis. There was also 
mild to moderate gastritis. Biopsies were obtained and are 
pending at discharge. He was started on omperazole 20mg BID. We 
recommended an anti-reflux regimen that includes (1)avoiding 
chocolate, peppermint, alcohol, caffeine, onions, aspirin (2) 
elevating the head of the bed 3 inches (3) go to bed with an 
empty stomach (4) avoid NSAIDS.  
If biospy is positive for H.pylori will require treatment. He 
will follow-up with gastroenterology as an outpatient. 
.
#URINARY RETENTION: Patient developed urinary retention, failing 
voiding trial twice, during his stay.  Repeat UA on ___ could be 
consistent with foley associated UTI, with urine culture pending 
at time of discharge.  He was started on tamsulosin for urine 
retention. The foley catheter was left in place at time of 
discharge. This should be REMOVED upon admission to facility for 
voiding trial. If he does not void within 8hr of removal please 
perform intermittent straight cath Q8hr until voids. If he is 
able to void the can stop straight cath and can try d/c 
tamsulosin. If patient develops dysuria or other symptoms 
concerning for UTI would give antibiotics (avoid levofloxacin) 
and f/u on urine culture drawn on ___ at ___. 
.
#CHRONIC LOWER EXTREMITY ULCER: Patient with chronic calcaneus 
ulcers bilaterally likely due to poor healing from DM1, PVD, and 
chronic steroids. Exam was not concerning for infection. Foot 
x-ray showed no evidence of osteomyelitis. Podiatry was 
consulted and recommended local wound care, off-loading, and 
elevation of lower extremities. Wound care consisted of adaptic 
(non-adherent) dressing daily, heel cup, wrap with kerlex, keep 
elevated on two pillows. 
.
#STAGE II COCCYX ULCER: Patient with stage II ulcer on 
admission. Local wound care provided with foam (mepilex) 
dressing every three days. Frequent repositioning to 
redistribute pressure. 
.
#VISUAL HALLUCINATIONS: His wife reported subacute development 
of complex visual hallucinations over the past several weeks. 
His vision appeared full on exam. 
Toxic-metabolic encephalopathy due to infectious etiology from 
C. Difficile infection may have been contributing. Medication 
side effects also considered as  levofloxacin can cause acute 
psychosis although timeframe does not correlate.   Other 
infectious work-up including blood and urine culture negative. 
Tox-screen was negative. Thyroid studies revealed subclinical 
hypothyroidism but not started on supplementation given history 
of cardiac disease. RPR negative. B12 within normal limits. In 
the absence of identifiable organic etiology, could also 
consider psychiatric conditions such as depression w/ psychotic 
features - wife reports he was recently evaluated for this and 
started on remeron. Following cessation of levofloxacin the 
patients visual hallucinations resolved and he was felt to be at 
baseline on discharge. 
.
#  ESRD s/p RENAL TRANSPLANT: He was continued on prednisone and 
tacrolimus. He was continued on bactrim adn fluconazole 
prophylaxis. Tacrolimus level was monitored daily while 
hospitalized. His tacrolimus dose was decreased to 0.5mg twice a 
day due to slightly elevated tacrolimus level at discharge. 
Please check tacrolimus level, chem-7, phosphate, calcium, CBC, 
AST, ALT, urinalysis, and urine protein/creatinine ratio weekly 
(every ___ and fax results to ___
.
#CAD: No symptoms concerning for ischemia at this time. He was 
continued on metoprolol, imdur, aspirin, and statin. 
.  
#DIABETES: He was continued on his home dose of lantus and 
sliding scale. 
.
#HYPERTENSION: He was continued on his home dose of amlodipine. 
.
#PVD: He was continued on aspirin and plavix. 
.
#CHRONIC CHF W/ PRESERVED EF: His lasix was initially held in 
the setting of acute kidney injury. This was restarted on ___ 
prior to discharge. 
.
#GERD: Found to have evidence of mild to moderate gastritis and 
esophagitis on endoscopy. He was started on omeprazole 20mg 
twice daily
.
#CHRONIC PAIN: Patient should get tylenol around the clock. His 
pain seemed to be adequately controlled wtih this. If pain 
despite this can do oxycodone 1 Q6hr PRN. But we discussed with 
him and wife that we should limit this due to side effect for 
slow Gi transit time.
.
#HEMORRHOID: He was given hemorroid suppository as needed 
.
TRANSITIONAL ISSUES: 
1. GI follow up regarding biopsy results and H.pylori and 
recommend further gastroparesis treatment  
2. Please check tacrolimus level, chem-7, phosphate, calcium, 
CBC, AST, ALT, urinalysis, and urine protein/creatinine ratio 
weekly (every ___ and fax results to ___
3. His coumadin dosing might require further adjusment as it was 
elevated at discharge
4. Monitor creatinine and PO intake and decrease lasix as needed
5. Urine culture pending at discharge. Will inform you of final 
results at discharge. If patient develops symptoms concerning 
for foley catheter associated UTI then would have low threshold 
to treat with antibiotics. 
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/CaregiverwebOMR.
1. Levofloxacin 750 mg PO Q24H 
2. PredniSONE 5 mg PO DAILY 
3. Tacrolimus 1 mg PO Q12H 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
5. Warfarin 1 mg PO DAILY16 
6. Aspirin 81 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. Amlodipine 5 mg PO DAILY 
9. Atorvastatin 80 mg PO DAILY 
10. Clopidogrel 75 mg PO DAILY 
11. Fluconazole 200 mg PO Q24H 
12. Fludrocortisone Acetate 0.1 mg PO DAILY 
13. Glargine 12 Units Dinner
Insulin SC Sliding Scale using novolog Insulin
14. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
15. Metoprolol Tartrate 75 mg PO BID 
16. Nitroglycerin SL 0.3 mg SL PRN chest pain 
17. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
18. Actonel *NF* (risedronate) 35 mg Oral weekly 
19. Travatan Z *NF* (travoprost) 0.004 % OS daily 
20. Ascorbic Acid ___ mg PO DAILY 
21. Calcium Carbonate 500 mg PO DAILY 
22. Docusate Sodium 100 mg PO DAILY:PRN constipation 
23. Multivitamins 1 TAB PO DAILY 
24. Ondansetron 4 mg PO TID 
25. Mirtazapine 7.5 mg PO HS 

 
Discharge Medications:
1. Outpatient Lab Work
please check tacrolimus level, chem-7, phosphate, calcium, CBC, 
AST, ALT, urinalysis, and urine protein/creatinine ratio weekly 
(every ___ and fax results to ___
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Calcium Carbonate 500 mg PO TID:PRN GERD 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO DAILY:PRN constipation 
7. Fluconazole 200 mg PO Q24H 
8. Fludrocortisone Acetate 0.1 mg PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. Glargine 12 Units Dinner
Insulin SC Sliding Scale using novolog Insulin
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
12. Metoprolol Tartrate 50 mg PO BID 
hold for SBP<100 or HR<55 and inform H.O. 
13. Mirtazapine 7.5 mg PO HS 
14. PredniSONE 5 mg PO DAILY 
15. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
16. Tacrolimus 0.5 mg PO Q12H 
17. Travatan Z *NF* (travoprost) 0.004 % OS daily 
18. Acetaminophen 650 mg PO TID 
19. Hemorrhoidal Suppository ___AILY 
20. Omeprazole 20 mg PO BID 
21. Tamsulosin 0.4 mg PO HS 
22. Vancomycin Oral Liquid ___ mg PO Q6H 
23. Actonel *NF* (risedronate) 35 mg Oral weekly 
24. Ascorbic Acid ___ mg PO DAILY 
25. Atorvastatin 80 mg PO DAILY 
26. Multivitamins 1 TAB PO DAILY 
27. Nitroglycerin SL 0.3 mg SL PRN chest pain 
28. please d/c foley catheter on admission
29. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg Q6hr Disp #*30 Each Refills:*0
30. voiding trial after foley catheter removed, if no urine 
output after 8 hours perform intermittent straight 
catheterization, continue Q8hrs until voids
31. Warfarin 0.5 mg PO DAILY16 Start: ___ 
hold dose on ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute kidney injury
Medication induced dystonic reaction
supratherapeutinc INR
Nausea
Visual hallucinations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
with upper extremity and facial twitching. This was likely a 
dystonic reaction to a medication. Your nausea medications as 
well as the antibiotic were stopped. Your symptoms resolved. 

Your kidney function was found to be worse than normal. This was 
likely due to dehdydration due to poor oral intake of nutrition. 
You were given intravenous fluids and your kidney function 
improved. 

Your coumadin level (INR) was found to be higher than normal. 
This was likely due to poor nutrition and the antibiotic you 
have been taking. You were given Vitamin K and your INR was at 
the appropriate level. 

Your foot ulcers were evaluated by the podiatry service. Your 
exam was not concerning for infection. The antibiotic you were 
on was stopped. Local wound care was continued. 

You reported nausea and vomitting for several months. You had a 
study that showed you have slow emptying of food/liquid from 
your stomach (called delayed gastric emptying).  You were seen 
by the gastrointestinology service. You underwent an upper 
endoscopy (EGD), which revealed inflammation of your stomach and 
esophagus. You were started on a medication to help with this 
condition.

You had some diarrhea. You were found to have an infection 
called C. difficile (C. Diff).  You were started on an 
antibiotic for this. You will need to continue this for the next 
six weeks. 

You developed urine retention. We started a medication for this 
called tamsulosin. You will have intermittent straight 
catheterizatino until pass your voiding trial.  A urine culture 
is pending at discharge. 

Please continue your home medications with the following 
changes: 
1. STOP taking levofloxacin
2. STOP taking zofran
3. START taking vancomycin
4. START taking omeprazole 
5. DECREASE your tacrolimus to 0.5mg twice a day
6. START taking tamsulosin

 
Followup Instructions:
___